US04387106
A solution of 4.89 g. of 2,4-dimethylphenylisocyanate in 100 ml. of hexane is added to a solution of 5.32 g. of dibenzylamine in 150 ml. of hexane and the solution is stirred at room temperature for 2 hours and then evaporated. The residual solid is recrystallized from pentane to yield 1,1-dibenzyl-3-(2,4-dimethylphenyl)urea, m.p. 124°-126° C.

reactant | 2,4-dimethylphenylisocyanate | CC1=C(C=CC(=C1)C)N=C=O | C9H9NO
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | hexane | CCCCCC | C6H14
product | 1,1-dibenzyl-3-(2,4-dimethylphenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=C(C=C(C=C1)C)C)CC1=CC=CC=C1 | C23H24N2O
